US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-amino-4-biphenylylsulphonamide
Prepared from N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-nitro-4-biphenylyl-sulphonamide in the presence of platinum/charcoal or Raney nickel and under a hydrogen pressure of 3 bar analogously to Example 22.

reactant | N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-nitro-4-biphenylyl-sulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C28H29N5O5S
catalyst | Raney nickel | [Ni] | Ni
catalyst | platinum/charcoal | [Pt] | Pt
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-amino-4-biphenylylsulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)N | C28H31N5O3S
